US07973026B2
Step 9: methyl 6-(2-fluorocyclohexyl)-5-(2-formylphenyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.1 M) of methyl 5-bromo-6-(2-fluorocyclohexyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate in dioxane was treated with (2-formylphenyl)boronic acid (1.5 eq.); aq. Na2CO3-solution (2 N, 8.5 eq.) was added and the solution was degassed, and then treated with Pd(PPh3)4 (0.1 eq.). A balloon with argon was installed, the mixture was placed in an oil bath preheated at 115° C. and stirred for 30 min, then cooled and diluted with EtOAc and brine. The organic phase was separated, washed with 1N HCl and brine, dried and concentrated. The residue was purified by chromatography (PE/EtOAc) to give the title compound (56%); some starting material (21%) was recovered. 1H-NMR (400 MHz, CDCl3, 300K, δ) 9.78&9.85* (bs, 1H.), 8.06 (dd, 1H, J 7.7, 1.3), 7.67 (s, 1H), 7.73-7.60 (m, 2H), 7.44 (bd, 1H, J 7.5), 4.50&4.55* (d, 1H, J 17.8&17.6), 4.44&4.48* (d, 1H, J 17.8&17.6), 4.73-4.49 (m, 1H), 3.91 (s, 3H), 3.62&3.63* (s, 3H), 2.42-2.34 (m, 1H), 2.18-2.12 (m, 1H), 1.83-1.07 (m, 7H); MS (ES+) m/z 458 (M+H)+. * Refers to two different conformers.

reactant | methyl 5-bromo-6-(2-fluorocyclohexyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | BrC1=C(C2=C(N1CC(=O)OC)C=C(S2)C(=O)OC)C2C(CCCC2)F | C17H19BrFNO4S
reactant | (2-formylphenyl)boronic acid | 1.5 eq. | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 2 N, 8.5 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 6-(2-fluorocyclohexyl)-5-(2-formylphenyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 56% | FC1C(CCCC1)C=1C2=C(N(C1C1=C(C=CC=C1)C=O)CC(=O)OC)C=C(S2)C(=O)OC | C24H24FNO5S
